US04826846
8-[2-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]ethoxy]-8-azaspiro[4.5]decan-7,9-dione
A mixture of 8-(2-bromoethyloxy)-8-azaspiro[4.5]decan-7,9-dione (3.7 g), 1-(1,2-benzisothiazol-3-yl)piperazine (2.2 g), K2CO3 (2.77 g) and NaI (200 mg) was heated was stirring in 125 mil of anhydrous CH3CN under N2.

reactant | 8-(2-bromoethyloxy)-8-azaspiro[4.5]decan-7,9-dione | 3.7 g | BrCCON1C(CC2(CCCC2)CC1=O)=O | C11H16BrNO3
reactant | 1-(1,2-benzisothiazol-3-yl)piperazine | 2.2 g | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | K2CO3 | 2.77 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | CC#N | C2H3N
product | 8-[2-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]ethoxy]-8-azaspiro[4.5]decan-7,9-dione | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCON2C(CC1(CCCC1)CC2=O)=O | C22H28N4O3S
